US05563157
2.1 Synthesis of (E)-2-(Thien-2-yl)-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid, t-butyl ester
Combine tris(dibenzylideneacetone)dipalladium(0) (412 mg, 0.450 mmol) and tri-(fur-2-yl)phosphine (837 mg, 3.60 mmol) in tetrahydrofuran (60 mL). After 5 minutes, add (Z)-2-bromo-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid, t-butyl ester (1.85 g, 3.0 mmol), thiophene-2-boronic acid (1.12 g, 9.20 mmol), and powdered potassium carbonate (1.27 g, 9.2 mmol). Heat to 60° C. After 8 days, dilute the reaction mixture with cyclohexane (120 mL) and chromatograph on silica gel eluting with 3/1 cyclohexane/ether to give the title compound. 1H NMR (CDCl3) δ 7.97 (d, 1H, J=1.7 Hz), 7.80 (d, 2H, J=8.5 Hz), 7.64 (s, 1H), 7.27 (d, 2H, J=8.5 Hz), 7.23 (d, 1H, J=1.7 Hz), 7.16 (dd, 1H, J=5.1, 1.2 Hz), 6.83 (dd, 1H, J=3.7, 1.2 Hz), 6.75 (dd, 1H, J=5.1, 3.7 Hz), 4.24 (q, 2H, J=7.1 Hz), 2.39 (s, 3H), 1.57 (s, 9H), 1.26 (t, 3H, J=7.1 Hz).

reactant | tri-(fur-2-yl)phosphine | 3.60 mmol, 837 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | (Z)-2-bromo-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid, t-butyl ester | 3.0 mmol, 1.85 g | Br\C(\C(=O)OC(C)(C)C)=C/C1=C(N(C2=CC(=CC(=C12)Cl)Cl)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC | C25H24BrCl2NO6S
reactant | thiophene-2-boronic acid | 9.20 mmol, 1.12 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | potassium carbonate | 9.2 mmol, 1.27 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | cyclohexane | 120 mL | C1CCCCC1 | C6H12
solvent | cyclohexane ether | C1CCCCC1.CCOCC
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.450 mmol, 412 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (E)-2-(Thien-2-yl)-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid, t-butyl ester | S1C(=CC=C1)\C(\C(=O)OC(C)(C)C)=C\C1=C(N(C2=CC(=CC(=C12)Cl)Cl)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC | C29H27Cl2NO6S2
